US04447361
N-[3-[6-Phenyl-11H-pyrido[2,3-b][1,4]benzodiazepine-11-yl]propyl]carbamic acid ethyl ester
To a solution of 1.6 g (0.0045 mole) of 6-phenyl-11H-pyrido[2,3-b][1,4]benzodiazepine-11-propanamine in dry methylene chloride was added 0.53 g (0.0052 mole) of triethylamine. To this solution was added dropwise, while cooling, 0.54 g (0.0050 mole) of ethyl chloroformate. The mixture was stirred at room temperature for 2 hr. The methylene chloride solution of the product (as indicated by chemical ionization mass spec) was washed with dilute sodium hydroxide-sodium chloride saturated aqueous solution and dried and concentrated to dryness. The residue was triturated in isopropyl ether. Yield was 1.5 g of title product.

reactant | 6-phenyl-11H-pyrido[2,3-b][1,4]benzodiazepine-11-propanamine | 0.0045 mole, 1.6 g | C1(=CC=CC=C1)C1=NC2=C(N(C3=C1C=CC=C3)CCCN)N=CC=C2 | C21H20N4
reactant | triethylamine | 0.0052 mole, 0.53 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.0050 mole, 0.54 g | ClC(=O)OCC | C3H5ClO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[3-[6-Phenyl-11H-pyrido[2,3-b][1,4]benzodiazepine-11-yl]propyl]carbamic acid ethyl ester | C(C)OC(NCCCN1C2=C(N=C(C3=C1C=CC=C3)C3=CC=CC=C3)C=CC=N2)=O | C24H24N4O2
